US04798780
1-(2'hydroxyphenylacetyl)-2-phenyl hydrazine
Phenyl hydrazine (0.73 ml) was added to a solution of 2-Coumaranone (1 g) in ether (25 ml) and the mixture stirred for 3 hours. The product was collected by filtration, washed with ether and dried.

reactant | Phenyl hydrazine | 0.73 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-Coumaranone | 1 g | O1C(CC2=CC=CC=C12)=O | C8H6O2
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1-(2'hydroxyphenylacetyl)-2-phenyl hydrazine | OC1=C(C=CC=C1)CC(=O)NNC1=CC=CC=C1 | C14H14N2O2
